US08957203B2
Preparation of 3-methyloxetan-3-yl pyridin-2-yl carbonate
To a suspension of sodium hydride, 60% in mineral oil (0.817 g, 20.43 mmol) in THF (55 mL) was added 3-methyloxetan-3-ol (1.5 g, 17.03 mmol) at 0° C. After stirring 30 min, the solution was transferred to a solution of di(pyridin-2-yl)carbonate (3.68 g, 17.03 mmol) in THF (55 mL) through a cannula. The formed slurry was stirred at 0° C. for 30 min. The slurry was warmed to rt and stirred for 2 h. The reaction was diluted with EtOAc, washed with brine, dried over MgSO4, filtered, concentrated to give a residue that was purified by Biotage (5-40% EtOAc:Hex) to afford the desired product 3-methyloxetan-3-yl pyridin-2-yl carbonate (1.00 g, 28.1% yield) as an oil. 1H NMR (400 MHz, CHLOROFORM-d) d 8.52-8.35 (m, 1H), 7.84 (ddd, J=8.1, 7.3, 2.1 Hz, 1H), 7.31-7.27 (m, 1H), 7.15 (dt, J=8.1, 0.8 Hz, 1H), 4.97-4.85 (m, 2H), 4.54 (d, J=8.0 Hz, 2H), 1.86 (s, 3H).

reactant | sodium hydride | [H-].[Na+]
reactant | 3-methyloxetan-3-ol | 17.03 mmol, 1.5 g | CC1(COC1)O | C4H8O2
reactant | di(pyridin-2-yl)carbonate | 17.03 mmol, 3.68 g | N1=C(C=CC=C1)OC(OC1=NC=CC=C1)=O | C11H8N2O3
solvent | THF | 55 mL | C1CCOC1 | C4H8O
solvent | THF | 55 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-methyloxetan-3-yl pyridin-2-yl carbonate | 1.00 g, 28.1% yield | C(OC1(COC1)C)(OC1=NC=CC=C1)=O | C10H11NO4
